US08748613B2
Preparation of 2-(4-methyl-3-oxopiperazin-1-yl)-2-phenylacetic acid (I51)
Ethyl 2-(4-methyl-3-oxopiperazin-1-yl)-2-phenylacetate (250 mg, 0.90 mmol) was dissolved in ethanol (8.6 ml) and water (4.3 ml). Lithium hydroxide (28.2 mg, 1.18 mmol) was added and the reaction was stirred at room temperature for three days. A second portion of lithium hydroxide (4.33 mg, 0.18 mmol) was added and the reaction was stirred at room temperature for 24 hours. EtOH was evaporated and 1N HCl was added to the aqueous solution till pH 7. The water was evaporated and the residue was suspended in acetonitrile and filtered on a buckner funnel washing with acetonitrile to obtain 170 mg of desired compound as a white solid. The compound was used in the next step without any further purification.

reactant | Ethyl 2-(4-methyl-3-oxopiperazin-1-yl)-2-phenylacetate | 0.90 mmol, 250 mg | CN1C(CN(CC1)C(C(=O)OCC)C1=CC=CC=C1)=O | C15H20N2O3
reactant | Lithium hydroxide | 1.18 mmol, 28.2 mg | [OH-].[Li+]
reactant | lithium hydroxide | 0.18 mmol, 4.33 mg | [OH-].[Li+]
solvent | ethanol | 8.6 ml | C(C)O | C2H6O
solvent | water | 4.3 ml | O | H2O
product | 2-(4-methyl-3-oxopiperazin-1-yl)-2-phenylacetic acid | 170 mg | CN1C(CN(CC1)C(C(=O)O)C1=CC=CC=C1)=O | C13H16N2O3
